US07834063B2
4-{(2,2-Dimethylpropyl)[2-(phenyloxy)ethyl]amino}-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile and phenol: 1H NMR (400 MHz, CDCl3) δ 7.55 (d, J=9.0 Hz, 1H), 7.31-7.23 (m, 2H), 7.11 (d, J=2.2 Hz, 1H), 6.69 (app. t, J=7.3 Hz, 1H), 6.91 (dd, J=8.9, 2.4 Hz, 1H), 6.83 (d, J=8.2 Hz, 2H), 4.11 (t, J=5.7 Hz, 2H), 3.93 (t, J=5.7 Hz, 2H), 3.40 (s, 2H), 1.01 (s, 9H).

reactant | 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO)(C)C | C15H19F3N2O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 4-{(2,2-Dimethylpropyl)[2-(phenyloxy)ethyl]amino}-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=CC=C1)(C)C | C21H23F3N2O
